US04029672
A solution of 8.0 g of 2-(2-cyclopropylamino)acetyl-1-(o-fluorobenzyl)pyrrole, free base of a, in 100 ml of isopropyl alcohol is added to a suspension of 2.2 g sodium borohydride in 100 ml of isopropanol. The reaction mixture is refluxed at 85° C. for 4 hours, allowed to cool to ambient temperature and 50 ml of methanol introduced. The solvent is removed leaving a yellow semi-solid which is treated with water and then extracted into ether. The ether extract is washed with water, dried and filtered and the solvent removed leaving a pure yellow oil of 2-(cyclopropylamino)-1-[1-(o-fluorobenzyl)-2-pyrryl]ethanol. Infrared and nuclear magnetic resonance spectra confirm this structure.

reactant | 2-(2-cyclopropylamino)acetyl-1-(o-fluorobenzyl)pyrrole | 8.0 g | C1C(C1)NCC(=O)C=1N(C=CC1)CC1=C(C=CC=C1)F | C16H17FN2O
reactant | sodium borohydride | 2.2 g | [BH4-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
reactant | water | O | H2O
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2-(cyclopropylamino)-1-[1-(o-fluorobenzyl)-2-pyrryl]ethanol | C1(CC1)NCC(O)C=1N(C=CC1)CC1=C(C=CC=C1)F | C16H19FN2O
